US08058300B2
Step 2: 1-(4′-Acetylbiphenyl-4-yl)cyclopropanecarboxylic acid isopropyl ester:
To 1-(biphenyl-4-yl)cyclopropanecarboxylic acid isopropyl ester (10.2 g, 36 mmol) in CH2Cl2 (100 mL) was added aluminum chloride (10.2 g, 76.5 mmol) followed by acetyl chloride (5.97 g, 76.5 mmol). The solution was stirred at room temperature for 1.5 hours then slowly poured into water. The organic layer was separated and extracted 1 time with sodium potassium tartrate solution (20 g in 250 mL water). The organic layer was dried and evaporated to yield 12.6 g of the title compound.

reactant | 1-(biphenyl-4-yl)cyclopropanecarboxylic acid isopropyl ester | 36 mmol, 10.2 g | C(C)(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=CC=C1 | C19H20O2
reactant | aluminum chloride | 76.5 mmol, 10.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 76.5 mmol, 5.97 g | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-(4′-Acetylbiphenyl-4-yl)cyclopropanecarboxylic acid isopropyl ester | 12.6 g | C(C)(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(C)=O | C21H22O3
